US05336690
Synthesis of [1,1':3',1"-terphenyl]-2'-yl(chlorosulfonyl)carbamate
A solution of 2,6-diphenyl phenol (25.0 g, 101 mmol) in 250 mL ethyl ether was added dropwise to a solution of chlorosulfonyl isocyanate (9.7 mL, 112 μmol) in 100 mL hexane at -15° C. under an atmosphere of nitrogen. The resulting white suspension was allowed to warm to room temperature over 2 hours. Concentrated in vacuo and triturated with ice cold hexane. Vacuum filtration afforded the title compound as a white solid, mp 159°-162° C.

reactant | 2,6-diphenyl phenol | 101 mmol, 25.0 g | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)O | C18H14O
reactant | chlorosulfonyl isocyanate | 112 μmol, 9.7 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | ethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | hexane | 100 mL | CCCCCC | C6H14
product | [1,1':3',1"-terphenyl]-2'-yl(chlorosulfonyl)carbamate | C1(=CC=CC=C1)C1=C(C(=CC=C1)C1=CC=CC=C1)OC(NS(=O)(=O)Cl)=O | C19H14ClNO4S
